US09315458B2
A) 5-bromo-2-hydroxy-4-methylbenzoic acid
To a solution of 2-hydroxy-4-methylbenzoic acid (5.00 g) in acetic acid (70.0 mL) was added dropwise bromine (1.68 mL), and the mixture was stirred at room temperature for 5.5 hr. To the reaction mixture was added water, and the precipitate was collected by filtration, and dried under reduced pressure to give the title compound (6.78 g).

reactant | 2-hydroxy-4-methylbenzoic acid | 5.00 g | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | bromine | 1.68 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 70.0 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2-hydroxy-4-methylbenzoic acid | 6.78 g | BrC=1C(=CC(=C(C(=O)O)C1)O)C | C8H7BrO3
